* source PRE_ADC_CIRCUIT
.EXTERNAL INPUT Vfinal
R_delyiannis_filter_R2         delyiannis_filter_N03304 VFINAL  5.23m TC=0,0 
C_delyiannis_filter_C1         delyiannis_filter_N03272
+  delyiannis_filter_N03304  40.54n  TC=0,0 
R_delyiannis_filter_R3         N10851 delyiannis_filter_N03272  15.7m TC=0,0 
C_delyiannis_filter_C2         delyiannis_filter_N03272 VFINAL  40.54n  TC=0,0 
R_delyiannis_filter_R1         0 delyiannis_filter_N03272  15.7m TC=0,0 
X_delyiannis_filter_U1         N10851 delyiannis_filter_N03304 VFINAL N10244
+  N10256 OPA855
X_unity_amplifier_U1         N10402 N12507 N12507 N10244 N10256 OPA855
V_Vsrc+         N10244 0 5
V_Vsrc-         0 N10256 5
V_V1         N10402 0  AC 1
+SIN 0 1 500e6 0 0 0
V_Voff         N10851 0 0.5
